US05110807
The ethyl 3-{N-[3-(pyrid-4-yl)propyl]-N-methyl-amino}-propionate obtained is refluxed for 24 hours with 600 ml of 4-n hydrochloric acid. The reaction mixture is evaporated to complete dryness, and the crystalline residue formed is separated, washed with water and dried yielding 3-{N-[3-(pyrid-4-yl)propyl]-N-methyl-amino}-propionic acid hydrochloride.

reactant | ethyl 3-{N-[3-(pyrid-4-yl)propyl]-N-methyl-amino}-propionate | N1=CC=C(C=C1)CCCN(C)CCC(=O)OCC | C14H22N2O2
reactant | hydrochloric acid | Cl | ClH
product | 3-{N-[3-(pyrid-4-yl)propyl]-N-methyl-amino}-propionic acid hydrochloride | Cl.N1=CC=C(C=C1)CCCN(C)CCC(=O)O | InChI=1S/C12H18N2O2.ClH/c1-14(10-6-12(15)16)9-2-3-11-4-7-13-8-5-11;/h4-5,7-8H,2-3,6,9-10H2,1H3,(H,15,16);1H
